US06897208B2
Starting with 16.2 mg of 5-thiophen-2-yl-2H-pyrazole-3-carboxaldehyde, 12.4 mg of 4,5-dimethyl-1,2-phenylenediamine, and 17.3 mg of sodium metabisulphite, in 0.2 ml of ethanol and 0.6 ml of dimethylformamide, and after purification by SPE (SCX phase, washing with methanol, extraction with 2N ammoniacal methanol) followed by a chromatography under pressure on silica and a purification by LC-MS, 5,6-dimethyl-2-(5-thiophen-2-yl-2H-pyrazol-3-yl)-1H-benzimidazole is obtained in the form of a white powder.

reactant | 5-thiophen-2-yl-2H-pyrazole-3-carboxaldehyde | 16.2 mg | S1C(=CC=C1)C=1C=C(NN1)C=O | C8H6N2OS
reactant | 4,5-dimethyl-1,2-phenylenediamine | 12.4 mg | CC1=CC(=C(C=C1C)N)N | C8H12N2
reactant | sodium metabisulphite | 17.3 mg | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | 5,6-dimethyl-2-(5-thiophen-2-yl-2H-pyrazol-3-yl)-1H-benzimidazole | CC1=CC2=C(NC(=N2)C=2NN=C(C2)C=2SC=CC2)C=C1C | C16H14N4S
